### PR TITLE
[Merged by Bors] - feat(LinearAlgebra/CrossProduct): vector triple product

### PR DESCRIPTION
**Pull request by zhikaip**
This PR adds two theorems about the vector triple product.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

First PR to Mathlib, please let me know if anything can be improved :)

### CODE REVIEW

File: Mathlib/LinearAlgebra/CrossProduct.lean [hunk 1]
```diff
@@ -164,3 +164,23 @@ lemma crossProduct_ne_zero_iff_linearIndependent {F : Type*} [Field F] {v w : Fi
...
+
+/-- The triple product expansion of the vector triple product. -/
+theorem cross_cross_eq_smul_sub_smul (u v w : Fin 3 → R) :
+    u ×₃ v ×₃ w = (u ⬝ᵥ w) • v - (v ⬝ᵥ w) • u := by
+  simp_rw [cross_apply, vec3_dotProduct]
+  ext i
+  fin_cases i <;>
+  · simp only [Fin.isValue, Nat.succ_eq_add_one, Nat.reduceAdd, Fin.reduceFinMk, cons_val,
+    Pi.sub_apply, Pi.smul_apply, smul_eq_mul]
+    ring
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/CrossProduct.lean:176]: style nit:
```suggestion
  · simp only [Fin.isValue, Nat.succ_eq_add_one, Nat.reduceAdd, Fin.reduceFinMk, cons_val,
      Pi.sub_apply, Pi.smul_apply, smul_eq_mul]
    ring
```
(and below)

File: Mathlib/LinearAlgebra/CrossProduct.lean [hunk 2]
```diff
@@ -164,3 +164,23 @@ lemma crossProduct_ne_zero_iff_linearIndependent {F : Type*} [Field F] {v w : Fi
   simp only [smul_eq_mul, mul_comm (w 0), mul_comm (w 1), mul_comm (w 2), h1] at h20 h21 h22
   rw [hv', cons_eq_zero_iff, cons_eq_zero_iff, cons_eq_zero_iff, zero_empty] at hv
   exact hv ⟨(h20 trivial).2, (h21 trivial).2, (h22 trivial).2, rfl⟩
+
+/-- The triple product expansion of the vector triple product. -/
```
Comment (eric-wieser) [inline Mathlib/LinearAlgebra/CrossProduct.lean:168]: Perhaps
```suggestion
/-- The scalar triple product expansion of the vector triple product. -/
```
and below
